US04410523
1-Methyl-N3 -(4-pyridinylmethylene)-N5 -[3-[[5-(1-pyrrolidinylmethyl)-1,4-cyclohexadien-1-yl]oxy]propyl]-1H-1,2,4-triazole-3,5-diamine.
A stirred solution of 1-methyl-N5 -[3-[[5-(1-pyrrolidinylmethyl)-1,4-cyclohexadien-1-yl]oxy]propyl]-1H-1,2,4-triazole-3,5-diamine (0.95 g) and 4-pyridinecarboxaldehyde (0.35 g) in benzene (30 ml) was heated under reflux in a Dean-Stark separator for 30 h. The solution was evaporated in vacuo to give a solid which was recrystallised from ethyl acetate (10 ml) to afford the title compound as a yellow solid (0.35 g). m.p. 166°-167° C.

reactant | 1-methyl-N5 -[3-[[5-(1-pyrrolidinylmethyl)-1,4-cyclohexadien-1-yl]oxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.95 g | CN1N=C(N=C1NCCCOC1=CCC=C(C1)CN1CCCC1)N | C17H28N6O
reactant | 4-pyridinecarboxaldehyde | 0.35 g | N1=CC=C(C=C1)C=O | C6H5NO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-Methyl-N3 -(4-pyridinylmethylene)-N5 -[3-[[5-(1-pyrrolidinylmethyl)-1,4-cyclohexadien-1-yl]oxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.35 g | CN1N=C(N=C1NCCCOC1=CCC=C(C1)CN1CCCC1)N=CC1=CC=NC=C1 | C23H31N7O
